US08022192B2
To a solution of 1-acetyl-4-[(3-fluoro-4-methylphenyl)-methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.75 g) in methanol (5 mL) was added potassium bicarbonate (0.030 g) under stirring at room temperature. The mixture was stirred at 50° C. for 3 hours. To the mixture was added glacial acetic acid (0.022 g) at 60° C., and the resulting mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/5) to give 4-[(3-fluoro-4-methylphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.610 g).

reactant | 1-acetyl-4-[(3-fluoro-4-methylphenyl)-methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.75 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC(=C(C=C1)C)F)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C40H57FN2O11
reactant | potassium bicarbonate | 0.030 g | C([O-])(O)=O.[K+]
reactant | acetic acid | 0.022 g | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | 4-[(3-fluoro-4-methylphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.610 g | FC=1C=C(C=CC1C)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C38H55FN2O10
